US07378447B2
3,2′-Difluorobiphenyl-4-carboxylic acid (R)-(6-(1-((2-methylsulfanylethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide
Dissolve the crude HI salt of methyl-(2-methylsulfanylethyl)(1-methylsulfanylethyl)amine (90.1 mg, 0.295 mmol) and 3,2′-difluorobiphenyl-4-carboxylic acid (R)-(6-amino-2(R)-hydroxyindan-1-yl)amide (101.3 mg, 0.266 mmol) in 10 mL pyridine. Allow the reaction to stir at 25° C. for 21 hours. Remove the solvent in vacuo and partition the residue between methylene chloride and saturated aqueous sodium hydrogen carbonate. Dry the organic layer with magnesium sulfate. Filter and remove the solvent in vacuo to give 91.5 mg of crude product. Purify via silica gel column chromatography (2% MeOH/CHCl3 to 5% MeOH/CHCl3) to afford 30.5 mg of the titled product (22% yield). MS (ES): m/z 510.1(M+H).

reactant | HI | I | HI
reactant | methyl-(2-methylsulfanylethyl)(1-methylsulfanylethyl)amine | 0.295 mmol, 90.1 mg | CN(C(C)SC)CCSC | C7H17NS2
reactant | 3,2′-difluorobiphenyl-4-carboxylic acid (R)-(6-amino-2(R)-hydroxyindan-1-yl)amide | 0.266 mmol, 101.3 mg | NC1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)F)F)O | C22H18F2N2O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3,2′-Difluorobiphenyl-4-carboxylic acid (R)-(6-(1-((2-methylsulfanylethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide | 30.5 mg, 22% yield | CSCCN(C(C)=NC1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)F)F)O)C | C28H29F2N3O2S
